US04097665
In the same manner as described in Example 12 but using 10 mmol of 5-fluorouridine in place of 10 mmol of the N4 -stearoylcytosine arabinoside, and 11 mmol of palmitic anhydride in place of 11 mmol of the succinic anhydride, 6.1 mmol of 5'-O-palmitoyl-5-fluorouridine was obtained in 61% yield as a white powder.

reactant | 5-fluorouridine | 10 mmol | FC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O6
reactant | palmitic anhydride | 11 mmol | C(CCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCC)=O | C32H62O3
product | 5'-O-palmitoyl-5-fluorouridine | 6.1 mmol, 61% yield | C(CCCCCCCCCCCCCCC)(=O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)F)O)O | C25H41FN2O7
